2199-12-24 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory distress
   24 Hour Events:
   Admitted.   Did well clincallly.  Remained tachy to 110s-120s.
 ULTRASOUND - At [**2199-12-23**] 07:46 PM
   Bilat lower extremity. Negative for DVT.
   CT Chest: c/w PNA
   AM Hct = 19 (from 25); repeat = 22.  Patient did receive 3L NS in ED.
   transfused 2 units PRBCs.
   Developed some tachypnea with crackles on exam.  Given lasix 40 mg IV.
   Allergies:
   Vancomycin
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-12-24**] 12:29 AM
   Furosemide (Lasix) - [**2199-12-24**] 07:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Tachycardia
   Respiratory: Cough, Dyspnea, Tachypnea, Wheeze
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2199-12-24**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 128 (85 - 133) bpm
   BP: 118/80(89) {90/58(69) - 121/90(97)} mmHg
   RR: 30 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                  1,060 mL
   PO:
                  360 mL
   TF:
   IVF:
   Blood products:
   700 mL
   Total out:
                                                                    575 mL
                                                                    490 mL
   Urine:
                                                                    575 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -575 mL
                                                                    570 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, some PACs
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, guaic negative
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   84 K/uL
   7.6 g/dL
   115 mg/dL
   2.7 mg/dL
   22 mEq/L
   5.5 mEq/L
   91 mg/dL
   112 mEq/L
   142 mEq/L
   22.2 %
   1.6 K/uL
        [image002.jpg]
                             [**2199-12-24**]  03:02 AM
                             [**2199-12-24**]  04:35 AM
   WBC
   1.6
   1.6
   Hct
   19.0
   22.2
   Plt
   95
   84
   Cr
   2.7
   Glucose
   115
   Other labs: PT / PTT / INR:12.9/30.3/1.1, Differential-Neuts:90.0 %,
   Band:2.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:847 mg/dL,
   Ca++:7.1 mg/dL, Mg++:2.0 mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   60M with Wegener's granulomatosis who presents with tachycardia,
   shortness of breath, and fever.
   .
   # Respiratory distress: CXR is unimpressive for PNA, however, patient
   was dry on presentation so radiographic findings may lag clinical
   presentation.  Atypical infection such as viral, flu, PCP or fungal is
   high on differential given his immunocompromised state.  PE is also on
   ddx, espicially given persistant tachycardia and b/l LE edema.  The
   patient has moderate underlying obstructive lung disease, and very
   little respiratory reserve.  Given fall in Hct from baseline of 30, DAH
   is also on differential.
   - non contrast CT chest to assess for parenchymal disease
   - bilateral LENIs to look for DVT
   - continue ctx/azithro to cover CAP
   - supplemental O2 to maintain O2 sat >93%
   - consider bronchoscopy if worsenes
   - add on LDH, b glucan for ?PCP, [**Name10 (NameIs) **] empiric tx for now
   - continue PCP [**Name9 (PRE) **], INH
   - rapid resp to rule out flu
   - droplet precautions
   - nebs
   .
   # Renal: CKD due to vasculitic renal complications and RPGN with
   baseline Cr 2.0-2.3, currently 2.9.
   -given IVF in ED
   -follow Cr
   -avoid nephrotoxins as able
   -renal consult tonight to look at sediment for ?Wegener's flair
   .
   # Wegener's granulomatosis: Had incomplete induction therapy with
   Cytoxan (aborted due to side effect), currently on prednisone 50 daily
   with bactrim TIW prophylaxis.  His current illness may represent a
   flair of his disease.  ANCA was resent [**12-19**].
   -stress dose steroids while acutely ill
   -renal consult as above
   .
   # Anemia: baseline 30, currently at 25.3.  Blood in urine suggests
   flair of vasculitis; thus also must be concerned for DAH, though no
   hemoptysis.
   -UA/UCx
   -urine sediment
   -guaic all stools
   -active T+crossmatch
   -consider bronch if clinical decompensation
   .
   # Pancytopenia: Patient has a h/o pancytopenia, thought to be due to
   cytoxan previously. He has an unexplained low CD4 count, most recently
   *4* on [**11-6**].  HIV was negative as recently as [**10-5**].
   -trend labs
   -consider heme consult
   .
   # Latent Tb: continue INH and pyridoxine
   .
   # FEN: No IVF, replete electrolytes, sips tonight while resp status so
   tenuous
   .
   # Prophylaxis: Subcutaneous heparin, home PPI
   .
   # Access: peripherals
   .
   # Code: presumed full
   .
   # Communication: Patient, neice [**Name (NI) 5315**] (Hcp) [**Telephone/Fax (1) 5317**]
   .
   # Disposition: ICU pending stabilization
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2199-12-23**] 08:41 PM
   18 Gauge - [**2199-12-24**] 05:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status:
   Disposition:

2199-12-24 10:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Admitted to the ICU overnight.  LENI's done, negative for DVT.  HCT
   noted to drop (25-->19)  after hydration.  Repeat HCT 22.  Guiac neg.
   Given 2u PRBC and lasix.
   Renal evaluated urine sediment.  Indeterminant.
   Chest CT done
   Still dyspneic, not getting relief from nebs.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Vancomycin
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-12-24**] 12:29 AM
   Furosemide (Lasix) - [**2199-12-24**] 07:14 AM
   Other medications:
   Ceftriaxone, Azithromycin, thiamine, pyrodoxine, iron, tums, Bactrim,
   Solumedrol 80mg Q6hr, protonix, INH, Atrovent, calcitriol, lopressor,
   RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-12-24**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.2
   HR: 129 (85 - 133) bpm
   BP: 135/94(104) {90/58(69) - 135/94(104)} mmHg
   RR: 21 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                  1,060 mL
   PO:
                  360 mL
   TF:
   IVF:
   Blood products:
   700 mL
   Total out:
                                                                    575 mL
                                                                    580 mL
   Urine:
                                                                    575 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -575 mL
                                                                    480 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.32/35/108/22/-7
   Physical Examination
   General Appearance: No acute distress, Older than stated age.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   84 K/uL
   115 mg/dL
   2.7 mg/dL
   22 mEq/L
   5.5 mEq/L
   91 mg/dL
   112 mEq/L
   142 mEq/L
   22.2 %
   1.6 K/uL
        [image002.jpg]
                             [**2199-12-24**]  03:02 AM
                             [**2199-12-24**]  04:35 AM
                             [**2199-12-24**]  08:09 AM
   WBC
   1.6
   1.6
   Hct
   19.0
   22.2
   Plt
   95
   84
   Cr
   2.7
   TCO2
   19
   Glucose
   115
   Other labs: PT / PTT / INR:12.9/30.3/1.1, Differential-Neuts:90.0 %,
   Band:2.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:847 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:7.1 mg/dL, Mg++:2.0 mg/dL, PO4:6.7 mg/dL
   Imaging: LENI:  neg for DVT B/L.
   Chest CT:  B/L tree-in-[**Male First Name (un) 667**] opacities on top of baseline emphysematous
   changes.
   CXR:  Increased opacity at R base compared to last night.
   Microbiology: BCx:  NGTD
   Resp viral panel Pending
   UCx:  Pending
   Assessment and Plan
   60 yo M with a h/o WG on prednisone 50mg presenting with malaise,
   weakness, fever, and dyspnea.  Found to be in acute on chronic renal
   failure. Now positive for parainfluenza in resp secretions
   Dyspnea/Fever:  Non-contrast Chest CT overnight suggests atypical
   infection.  Does not appear consistent with DAH or typical bacterial
   PNA.
     -Continue empiric CAP coverage with ceftriaxone/azithromycin, will
   add Vanco if clinical decline
     - If flu positive, no indication for tamiflu given timing of onset of
   symptoms and high resistance rate in strains this year.
     -Induced sputum for regular culture and PCP.  [**Name10 (NameIs) **] keep on
   prophylactic doses of bactrim for now but low threshold for changing to
   treatment dosing.
     -Check 1,3 Glucan for PCP
     [**Name9 (PRE) **] ANCA titer
     -standing and PRN nebs
     -Continue on IV steroids for now.
   Renal Failure:  Pre-renal vs intrinsic renal (ATN, vasculitis).  Per
   renal, sediment was indeterminant for GN.  Creatinine slightly down
   today with hydration.
     - he is coming to HD soon given nephrotic range proteinuria
     -Continue hydration today.
   HCT drop:  No evidence of DAH on CT.  Guiac negative.  Possibly just
   dilutional vs bone marrow suppressions from acute illness
     -Serial HCT today. And transfuse to keep Hct at > 25
   Pancytopenia:  Etiology unclear, ? from prior cytoxan +/- Bactrim use
     -Heme consult today.
   Tachycardia:  Appears to be sinus ( hypovolemia, fevers, tachypnea all
   contributing)
     -Continue with hydration as above
   Wegener's:  Will ask rheum to consult.
   Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2199-12-23**] 08:41 PM
   18 Gauge - [**2199-12-24**] 05:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2199-12-25 08:00:00 Physician Resident Progress Note
Chief Complaint: Parainfluenza
   24 Hour Events:
   Rapid Resp Screen positive for Parainfluenza
   Received 2U PRBC yest with bump in HCT from 22 to 30
   Onc consult obtained for low CD4 count off cytoxan - recommended
   holding bactrim and PPI  check anti-granulocyte antibody and parvovirus
   Rheum - consider decreasing steroids
   Allergies:
   Vancomycin
   Thrombocytopeni
   Last dose of Antibiotics:
   Ceftriaxone - [**2199-12-24**] 10:00 AM
   Azithromycin - [**2199-12-24**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-12-24**] 11:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-12-25**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.8
C (96.5
   HR: 107 (93 - 133) bpm
   BP: 95/68(75) {95/56(61) - 150/105(117)} mmHg
   RR: 25 (15 - 32) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
                  Total In:
                                                                  2,110 mL
                  PO:
                                                                  1,360 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,745 mL
                                                                    430 mL
   Urine:
                                                                  1,445 mL
                                                                    430 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    365 mL
                                                                   -430 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.32/35/108/20/-7
   Physical Examination
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Skin:  warm, well perfused
   Neurologic: following commands, appropriate
   CV: RRR, nl S1/S2, no MRG
   Resp: decreased BS at bases, end exp wheezes throughout
   Abd: soft, NT/ND, NABS
   Ext: no edema
   Labs / Radiology
   98 K/uL
   9.5 g/dL
   98 mg/dL
   3.8 mg/dL
   20 mEq/L
   5.0 mEq/L
   109 mg/dL
   112 mEq/L
   145 mEq/L
   27.5 %
   3.9 K/uL
        [image002.jpg]
                             [**2199-12-24**]  03:02 AM
                             [**2199-12-24**]  04:35 AM
                             [**2199-12-24**]  08:09 AM
                             [**2199-12-24**]  10:35 AM
                             [**2199-12-24**]  06:04 PM
                             [**2199-12-25**]  05:33 AM
   WBC
   1.6
   1.6
   3.9
   Hct
   19.0
   22.2
   30.3
   29.1
   27.5
   Plt
   95
   84
   98
   Cr
   2.7
   3.8
   TCO2
   19
   Glucose
   115
   98
   Other labs: PT / PTT / INR:13.6/27.8/1.2, Differential-Neuts:90.0 %,
   Band:2.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:847 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:7.3 mg/dL, Mg++:2.2 mg/dL, PO4:8.4 mg/dL
   Imaging: CXR [**12-24**] - Possible developing pneumonic consolidation at the
   right lung
   base. Chronic bullous emphysema again observed.
   Microbiology: [**2199-12-23**] 7:05 pm Rapid Respiratory Viral Screen & Culture
         Source: Nasopharyngeal aspirate.
                               **FINAL REPORT [**2199-12-24**]**
      Respiratory Viral Culture (Final [**2199-12-24**]):
         TEST CANCELLED, PATIENT CREDITED.
         Refer to rapid respiratory viral antigen and viral identification
         test results for further information.
      Rapid Respiratory Viral Antigen Test (Final [**2199-12-24**]):
         Positive for respiratory viral antigens except RSV.
         Refer to respiratory viral identification test for further
         information.
         SPECIMEN SCREENED FOR: ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B
   AND
         RSV.
         This kit is not FDA approved for the direct detection of
   respiratory
         viruses in specimens; interpret negative result with caution..
      Respiratory Viral Identification (Final [**2199-12-24**]):
         POSITIVE FOR PARAINFLUENZAE TYPE 2 VIRAL ANTIGEN.
         This kit is not FDA approved for the direct detection of
   respiratory
         viruses in specimens; interpret negative result with caution..
         REPORTED BY PHONE TO DR [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] 10:37AM [**2199-12-24**].
   [**2199-12-23**] 10:55 am BLOOD CULTURE
      Blood Culture, Routine (Pending):
   Assessment and Plan
   60M with Wegener's granulomatosis admitted with respiratory distress
   found to have Parainfluenza, now with ARF.
   .
   # Respiratory distress: RRVS positive for Parainfluenza. CT Chest c/w
   bronchiolitis. The patient has moderate underlying obstructive lung
   disease, and very little respiratory reserve.  Clinically improving
   with supportive care.
   - continue ctx/azithro to cover CAP, less likely as presentation c/w
   viral process, will continue abx pending sputum culture, RT will retry
   induced sputum today
   - supplemental O2 to maintain O2 sat >93%
   - continue nebs, change albuterol to xoponex given tachycardia
   - add mucinex to aid with expectorating secretions
   .
   # Pancytopenia: Patient has a h/o pancytopenia, thought to be due to
   cytoxan previously, with possible contribution from Bactrim. He has an
   unexplained low CD4 count, most recently *4* on [**11-6**].  HIV was
   negative as recently as [**10-5**].   BM biopsy in past w/ normocellular
   marrow, thought toxin induced suppression.  Rectal guaic negative.
   -trend labs
   -heme consult, appreciate recs, antigranulocyte ab and parvovirus
   serologies sent
   -active T+crossmatch
   .
   # Acute on Chronic Renal Failure: CKD due to vasculitic renal
   complications and RPGN with baseline Cr 2.0-2.3, currently 3.8.   Renal
   consulted found sediment inconclusive for Wegeners, more likely ATN
   related to chronic hypoperfusion with acute exacerbation
   -follow Cr
   -avoid nephrotoxins
   -apreciate renal recs
   .
   # Wegener's granulomatosis: Had incomplete induction therapy with
   Cytoxan (aborted due to side effect), currently on prednisone 50 daily
   as outpatient, no current evidence of wegener
s flare
   -stress dose steroids while acutely ill
   -renal and rheum consults, consider imuran addition as outpatient, will
   send TPMT enzyme activity while in house. Also rec ID consult for
   question of starting imuran as outpatient, appreciate recs
   - transition from bactrim to atovoquone for PCP [**Name Initial (PRE) 1316**]
   .
   # Atrial [**Name (NI) 7697**]
 pt with RVR currently in setting of illness,
   will continue metoprolol 75mg po QID and add dilt 30mg QID
   # Latent Tb: continue INH and pyridoxine
   .
   # FEN: No IVF, replete electrolytes, reg diet
   .
   # Prophylaxis: Subcutaneous heparin, holding ppi as above
   .
   # Access: peripherals
   .
   # Code: full
   .
   # Communication: Patient, neice [**Name (NI) 5315**] (Hcp) [**Telephone/Fax (1) 5317**]
   .
   # Disposition: ICU pending stabilization
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-12-23**] 08:41 PM
   18 Gauge - [**2199-12-24**] 05:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2199-12-25 10:52:00 Physician Attending Progress Note
Chief Complaint: fever/dyspnea with parainfluenza
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 M with Wegeners with fever/dyspnea
   24 Hour Events:
   Low WBC from hx of cytoxan and bactrim. Bactrim d/ced.
   Prednisone decreased in settin gof infection.
   PRBC transfused for Hct 19...acute drop
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Vancomycin
   Thrombocytopeni
   Last dose of Antibiotics:
   Ceftriaxone - [**2199-12-24**] 10:00 AM
   Azithromycin - [**2199-12-24**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-12-24**] 11:44 PM
   Ranitidine (Prophylaxis) - [**2199-12-25**] 08:51 AM
   Other medications:
   thiamine, pyridoxine, iron, tums, INH, atrovent, calcitriol, ISS,
   lopressor, solumedrol 80 iv q12
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-12-25**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96.1
   HR: 105 (93 - 133) bpm
   BP: 102/81(86) {95/56(61) - 150/105(117)} mmHg
   RR: 28 (15 - 32) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
                  Total In:
                                                                  2,110 mL
                  PO:
                                                                  1,360 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,745 mL
                                                                    610 mL
   Urine:
                                                                  1,445 mL
                                                                    610 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    365 mL
                                                                   -610 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all present
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   98 K/uL
   98 mg/dL
   3.8 mg/dL
   20 mEq/L
   5.0 mEq/L
   109 mg/dL
   112 mEq/L
   145 mEq/L
   27.5 %
   3.9 K/uL
        [image002.jpg]
                             [**2199-12-24**]  03:02 AM
                             [**2199-12-24**]  04:35 AM
                             [**2199-12-24**]  08:09 AM
                             [**2199-12-24**]  10:35 AM
                             [**2199-12-24**]  06:04 PM
                             [**2199-12-25**]  05:33 AM
   WBC
   1.6
   1.6
   3.9
   Hct
   19.0
   22.2
   30.3
   29.1
   27.5
   Plt
   95
   84
   98
   Cr
   2.7
   3.8
   TCO2
   19
   Glucose
   115
   98
   Other labs: PT / PTT / INR:13.6/27.8/1.2, Differential-Neuts:90.0 %,
   Band:2.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:847 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:7.3 mg/dL, Mg++:2.2 mg/dL, PO4:8.4 mg/dL
   Assessment and Plan
 DYSPNEA (SHORTNESS OF BREATH)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 TACHYCARDIA, OTHER
   60 yo M with a h/o WG on prednisone 50mg presenting with malaise,
   weakness, fever, and dyspnea.  Found to be in acute on chronic renal
   failure. Now positive for parainfluenza in resp secretions
   Afib uncontrolled.
   Dyspnea/Fever:  Parainfluenza..supportive care, O2, nebs, chest PT [**Name (NI) **],
   acapella), mucinex, xopenex
   CT chest with atypical infection..prior Wegeners nodules resolved. ?
   new fibrosis near hilum in RLL.
   Abx: Continue for now, due to underlying parenchymal disease. Send
   sputum.
     -standing and PRN nebs
     -Continue on IV steroids for now, wean slowly.
   Renal Failure:  Pre-renal vs intrinsic renal (ATN, vasculitis).  Per
   renal, sediment was indeterminant for GN.  Creatinine up to 3.8 today
   but non oliguric at present
     - he is coming to HD soon given nephrotic range proteinuria
     -Continue hydration today. - I/O even to slightly positive
   - Check daily urine spine: muddy casts on first.
   HCT drop:  No evidence of DAH on CT.  Guiac negative.  Possibly just
   dilutional vs bone marrow suppressions from acute illness
     -Serial HCT today. And transfuse to keep Hct at > 25
   Pancytopenia:  Etiology unclear, ? from prior cytoxan +/- Bactrim
   use+/- acute infection
   f/u heme recs. check parvovirus.
   ID: Add atovaquone, continue INH for positive ppd.
   Tachycardia:  afib, beta blocker maxed, add dilt
   Wegener's:  rheum to consult
   Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Comments: po nutrition
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-12-23**] 08:41 PM
   18 Gauge - [**2199-12-24**] 05:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 mins

2199-12-26 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   events:
   - converted back to sinus rhythm overnight
   medication changes:
   - switched bactrim to atovaquone
   - started mucinex
   - added diltiazem 30mg PO QID and uptitrated to 60mg QID with good rate
   control
   - switched to xopenex nebs
   recommendations from consult teams:
   - heme/onc - switch off of bactrim, hold ppi; send antigranulocyte Ab
   and parvovirus
   - ID - no imuran, try to taper off steroids; send induced sputum for
   fungal, viral, PCP and AFB, also blood for galactomannan and crypto Ag
   and urine for legionella Ag.
   - Renal - send ANCA titers, check CPK; supportive care for likely ATN.
   Allergies:
   Vancomycin
   Thrombocytopeni
   Last dose of Antibiotics:
   Ceftriaxone - [**2199-12-25**] 10:00 AM
   Azithromycin - [**2199-12-25**] 11:21 AM
   Atovaquone - [**2199-12-25**] 02:57 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2199-12-25**] 08:51 AM
   Heparin Sodium (Prophylaxis) - [**2199-12-25**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-12-26**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.4
   HR: 74 (67 - 133) bpm
   BP: 129/75(88) {95/68(81) - 136/98(104)} mmHg
   RR: 21 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,770 mL
                  PO:
                                                                  1,720 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    560 mL
   Urine:
                                                                  1,525 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    245 mL
                                                                   -560 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   96 K/uL
   8.9 g/dL
   172 mg/dL
   3.7 mg/dL
   26 mEq/L
   4.4 mEq/L
   134 mg/dL
   113 mEq/L
   147 mEq/L
   25.1 %
   4.3 K/uL
        [image002.jpg]
                             [**2199-12-24**]  03:02 AM
                             [**2199-12-24**]  04:35 AM
                             [**2199-12-24**]  08:09 AM
                             [**2199-12-24**]  10:35 AM
                             [**2199-12-24**]  06:04 PM
                             [**2199-12-25**]  05:33 AM
                             [**2199-12-26**]  05:00 AM
   WBC
   1.6
   1.6
   3.9
   4.3
   Hct
   19.0
   22.2
   30.3
   29.1
   27.5
   25.1
   Plt
   95
   84
   98
   96
   Cr
   2.7
   3.8
   3.7
   TCO2
   19
   Glucose
   115
   98
   172
   Other labs: PT / PTT / INR:13.6/27.8/1.2, CK / CKMB / Troponin-T:85//,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:0.0
   %, Fibrinogen:847 mg/dL, Lactic Acid:0.8 mmol/L, Ca++:7.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:8.7 mg/dL
   [**12-25**] Glucan and Galactomannan
 Pending
   [**12-25**]
 ANCA
 pending
   [**12-25**]
 Parvovirus
 pending
   [**12-25**]
 anti-granulocyte ab - pending
[**2199-12-25**] 5:43 pm SPUTUM     Site: EXPECTORATED
      Source: Expectorated.
   GRAM STAIN (Final [**2199-12-25**]):
      [**9-21**] PMNs and >10 epithelial cells/100X field.
      Gram stain indicates extensive contamination with upper respiratory
      secretions. Bacterial culture results are invalid.
      PLEASE SUBMIT ANOTHER SPECIMEN.
   RESPIRATORY CULTURE (Final [**2199-12-25**]):
      TEST CANCELLED, PATIENT CREDITED.
   LEGIONELLA CULTURE (Preliminary):
   Immunoflourescent test for Pneumocystis jirovecii (carinii)
      (Preliminary):
   FUNGAL CULTURE (Preliminary):
   ACID FAST SMEAR (Preliminary):
      ACID FAST CULTURE (Preliminary):
[**2199-12-25**] 4:46 pm SEROLOGY/BLOOD      Source: Venipuncture.
                            **FINAL REPORT [**2199-12-26**]**
   CRYPTOCOCCAL ANTIGEN (Final [**2199-12-26**]):
      CRYPTOCOCCAL ANTIGEN NOT DETECTED.
   [**2199-12-25**] 4:46 pm URINE      Source: Catheter.
                            **FINAL REPORT [**2199-12-26**]**
   Legionella Urinary Antigen  (Final [**2199-12-26**]):
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN.
   Assessment and Plan
   60M with Wegener's granulomatosis admitted with respiratory distress
   found to have Parainfluenza, now with ARF.
   .
   # Respiratory distress: RRVS positive for Parainfluenza. CT Chest c/w
   bronchiolitis. The patient has moderate underlying obstructive lung
   disease, and very little respiratory reserve.  Clinically improving
   with supportive care.
   - continue ctx/azithro to complete 7 day course for possible
   co-infection/CAP per ID recs, less likely as presentation c/w viral
   process, will continue abx pending sputum culture, RT will retry
   induced sputum today
   - supplemental O2 to maintain O2 sat >93%
   - continue nebs, change albuterol to xoponex given tachycardia
   - add mucinex to aid with expectorating secretions
   - glucan/galactomannan pending, legionella and crypto negative
   .
   # Pancytopenia: Patient has a h/o pancytopenia, thought to be due to
   cytoxan previously, with possible contribution from Bactrim. He has an
   unexplained low CD4 count, most recently *4* on [**11-6**].  HIV was
   negative as recently as [**10-5**].   BM biopsy in past w/ normocellular
   marrow, thought toxin induced suppression.  Rectal guaic negative.
   -trend labs
   -heme consult, appreciate recs, antigranulocyte ab and parvovirus
   serologies sent, will consider eventual repeat BM biopsy if counts fail
   to improve
   - bactrim and PPI DC
   -active T+crossmatch
   .
   # Acute on Chronic Renal Failure: CKD due to vasculitic renal
   complications and RPGN with baseline Cr 2.0-2.3, currently 3.8.   Renal
   consulted found sediment inconclusive for Wegeners, more likely ATN
   related to chronic hypoperfusion with acute exacerbation
   -follow Cr
   -avoid nephrotoxins
   -apreciate renal recs
   .
   # Wegener's granulomatosis: Had incomplete induction therapy with
   Cytoxan (aborted due to side effect), currently on prednisone 50 daily
   as outpatient, no current evidence of wegener
s flare
   -stress dose steroids while acutely ill
 will taper to 40mg [**Hospital1 **]
   -renal and rheum consults, consider imuran addition as outpatient, will
   send TPMT enzyme activity while in house. Appreciate ID recs, would
   hold on new immunosuppressive regimen in setting of illness
   - transition from bactrim to atovoquone for PCP [**Name Initial (PRE) 1316**]
   .
   # Atrial Filbrillation
 now converted to sinus rhythm,  pt initially
   with RVR in setting of illness, will continue metoprolol 75mg po QID
   and and dilt 60mg QID
   # Latent Tb: continue INH and pyridoxine
   .
   # FEN: No IVF, replete electrolytes, reg diet
   .
   # Prophylaxis: Subcutaneous heparin, holding ppi as above
   .
   # Access: peripherals
   .
   # Code: full
   .
   # Communication: Patient, neice [**Name (NI) 5315**] (Hcp) [**Telephone/Fax (1) 5317**]
   SW consult to help with coping, increased assistance at home
   .
   # Disposition: call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-12-23**] 08:41 PM
   18 Gauge - [**2199-12-24**] 05:02 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: Floor

2199-12-26 11:55:00 Physician Attending Progress Note
Chief Complaint:  respiratory distress, parainfluenza
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   flipped into sinus on diltiazem po
   PCP [**Name9 (PRE) **] with atovaquone.
   Heme: BM bx later
   ID: Azithro/Ceftriaxone cont
   Renal: ATN, supportive care, ACNA titer, check CPK
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Vancomycin
   Thrombocytopeni
   Last dose of Antibiotics:
   Azithromycin - [**2199-12-25**] 11:21 AM
   Atovaquone - [**2199-12-25**] 02:57 PM
   Ceftriaxone - [**2199-12-26**] 10:05 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-12-25**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-12-26**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96
   HR: 67 (67 - 133) bpm
   BP: 121/74(85) {113/68(81) - 136/98(104)} mmHg
   RR: 23 (15 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,770 mL
                                                                    310 mL
   PO:
                                                                  1,720 mL
                                                                    260 mL
   TF:
   IVF:
                                                                     50 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    795 mL
   Urine:
                                                                  1,525 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    245 mL
                                                                   -485 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   96 K/uL
   172 mg/dL
   3.7 mg/dL
   26 mEq/L
   4.4 mEq/L
   134 mg/dL
   113 mEq/L
   147 mEq/L
   25.1 %
   4.3 K/uL
        [image002.jpg]
                             [**2199-12-24**]  03:02 AM
                             [**2199-12-24**]  04:35 AM
                             [**2199-12-24**]  08:09 AM
                             [**2199-12-24**]  10:35 AM
                             [**2199-12-24**]  06:04 PM
                             [**2199-12-25**]  05:33 AM
                             [**2199-12-26**]  05:00 AM
   WBC
   1.6
   1.6
   3.9
   4.3
   Hct
   19.0
   22.2
   30.3
   29.1
   27.5
   25.1
   Plt
   95
   84
   98
   96
   Cr
   2.7
   3.8
   3.7
   TCO2
   19
   Glucose
   115
   98
   172
   Other labs: PT / PTT / INR:13.6/27.8/1.2, CK / CKMB / Troponin-T:85//,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:0.0
   %, Fibrinogen:847 mg/dL, Lactic Acid:0.8 mmol/L, Ca++:7.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:8.7 mg/dL
   Microbiology: Spu: [**9-21**] PMN, > 10 epis
   Crypto, Lg neg
   Assessment and Plan
   60 yo M with a h/o WG on prednisone 50mg presenting with malaise,
   weakness, fever, and dyspnea.  Found to be in acute on chronic renal
   failure. Now positive for parainfluenza in resp secretions. Was in mild
   failure with Afib, now converted to sinus rhythm with beta blocker and
   diltiazem. Slowly improving breathing status although remains tenuous
   even on nebs and solumedrol
   ID: Contnue Azithro/Ceftriax for superinfection x 7 days per ID.,
   Induced sputum pend. PCP [**Name9 (PRE) **] with atovaquone due to leukopenia.
   Parainfluenza: supportive care, O2, nebs, chest PT [**Name (NI) **], acapella),
   mucinex, xopenex
   Heme: Pancytopenia:  Etiology unclear, ? from prior cytoxan +/- Bactrim
   use+/- acute infection. BM bx later
   ID: Azithro/Ceftriaxone cont
   Renal: ATN, supportive care, ANCA titer, check CPK. I/O: even to
   slightly positive. Watch phos level. Likely RRT soon with progressive
   azotemia
   WG: Wean steroids and update renal and rheum. Check TPMP level for ?
   imuran.
   PT and social work consult.
    Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2199-12-23**] 08:41 PM
   18 Gauge - [**2199-12-24**] 05:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor if OK with renal service
   Total time spent:  35 mins